US04968678
Ethyl 4-cyanomethylidene-N-t-butoxycarbonyl-2-piperidinecarboxylate (9.00 g, 0.031 mol) was hydrogenated in 140 ml of ethanol with 0.90 g of 5% by weight palladium-on-carbon at room temperature and 60 p.s.i. for 60 minutes. The mixture was filtered through Celite and concentrated under vacuum. High pressure liquid chromatography of the residue provided 8.20 g of ethyl cis-4-cyanomethyl-N-t-butoxycarbonyl-2-piperidinecarboxylate.

reactant | Ethyl 4-cyanomethylidene-N-t-butoxycarbonyl-2-piperidinecarboxylate | 0.031 mol, 9.00 g | C(#N)C=C1CC(N(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C15H22N2O4
solvent | ethanol | 140 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | ethyl cis-4-cyanomethyl-N-t-butoxycarbonyl-2-piperidinecarboxylate | 8.20 g | C(#N)C[C@@H]1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C15H24N2O4
